US05135932
6-[1-(2-Acetaminoethyl)-2-hydroxy-benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone
To a solution of 580 mg (2.0 mmol) of 6-(3-amino-4-acetylaminoethylamino-phenyl)-4,5-dihydro-3(2H)-pyridazinone in 50 ml of dimethylformamide, 325 mg (2.0 mmol) of carbonyldiimidazole are added at 50° C. After 45 minutes at 50° C. the mixture is evaporated to dryness and the residue is mixed with 10 ml of water. The product precipitated is suction filtered, washed with 5 ml of water and dried.

reactant | 6-(3-amino-4-acetylaminoethylamino-phenyl)-4,5-dihydro-3(2H)-pyridazinone | 2.0 mmol, 580 mg | NC=1C=C(C=CC1NCCNC(C)=O)C=1CCC(NN1)=O | C14H19N5O2
reactant | carbonyldiimidazole | 2.0 mmol, 325 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-[1-(2-Acetaminoethyl)-2-hydroxy-benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | N(C(=O)C)CCN1C(=NC2=C1C=CC(=C2)C=2CCC(NN2)=O)O | C15H17N5O3
